US08067408B2
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-methyl-3′-[(4-methyl-1-piperazinyl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide
N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide (0.033 g, 0.05 mmol) and 1-methylpiperazine (0.025 g, 0.25 mmol) were combined in CH2Cl2 (2 mL) and stirred for 30 min. Sodium triacetoxyborohydride (0.053 g, 0.25 mmol) was added and the mixture stirred overnight. Aqueous workup followed using a Gilson HPLC with an ammonium hydroxide system gave the title compound as a white solid. LC-MS m/z 743.2 (M+H)+, 1.42 min (ret time); mp 121-124° C.

reactant | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-[(3′-formyl-6-methyl-3-biphenylyl)methyl]-1,3-benzenedicarboxamide | 0.05 mmol, 0.033 g | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)C=O)CC | C39H42N6O4
reactant | 1-methylpiperazine | 0.25 mmol, 0.025 g | CN1CCNCC1 | C5H12N2
reactant | Sodium triacetoxyborohydride | 0.25 mmol, 0.053 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | N-{[1,6-Diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-methyl-3′-[(4-methyl-1-piperazinyl)methyl]-3-biphenylyl}methyl)-1,3-benzenedicarboxamide | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=CC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)CN2CCN(CC2)C)CC | C44H54N8O3
